US06969724B2
2-Methylphenethyl alcohol methanesulfonate
10 g (0.0734 mol) of 2-methylphenethyl alcohol were dissolved in 200 mL of dry CH2Cl2 under a nitrogen atmosphere; the solution was cooled to 5° C., 16.4 mL (0.1175 mol) of triethylamine were added, followed by a solution of 9.1 mL (0.1175 mol) of methanesulfonyl chloride in 100 mL of dry CH2Cl2, keeping the temperature below 15° C. The reaction mixture was allowed to warm to room temperature in 2 h, then 250 mL of water were added, the organic phase was collected and the solvent was removed in vacuo. The resulting oil was taken up in Et2O and washed with 1N HCl and successively with saturated NaHCO3 solution, the solvent was removed in vacuo, yielding 14.5 g of the title product which was used without further purification.

reactant | 2-methylphenethyl alcohol | 0.0734 mol, 10 g | CC1=C(CCO)C=CC=C1 | C9H12O
reactant | triethylamine | 0.1175 mol, 16.4 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.1175 mol, 9.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 250 mL | O | H2O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Methylphenethyl alcohol methanesulfonate | 14.5 g | CS(=O)(=O)OCCC1=C(C=CC=C1)C | C10H14O3S
